* Differential Pair SPICE Netlist
* Transistors
Q1 2 5 3 NPN
Q2 2 3 3 NPN
* Resistors
R1 2 4 1k
R2 2 4 1k
* Input Voltage Source
Vs 6 3 AC 1
* Vcc
? Missing component
* Current Source
I1 3 0 DC 1mA
* End of Netlist
